US07709469B2
1-[2-chloro-3-(trifluoromethyl)phenyl]-5-(2-methylbenzyl)-1H-1,2,4-triazole
The title compound was prepared using the procedure as described in Example 80 substituting 2-chloro-3-trifluoromethylphenylhydrazine hydrochloride for phenylhydrazine hydrochloride and substituting Example 76A for N-formylphenylacetamide. The residue was purified by flash chromatography (20% ethyl acetate/hexanes) to provide the title compound. MS (ESI) m/e: 352 (M+H); 1H NMR (DMSO-d6) δ 2.05 (s, 3H), 4.05 (s, 2H), 6.7-6.75 (d, 1H), 6.85-6.96 (m, 1H), 7.04-7.1 (d, 2H), 7.7-7.75 (t, 1H), 7.89-7.97 (d, 1H), 8.05-8.1 (d, 1H), 8.18 (s, 1H); Anal. calcd. for C: 58.05, H: 3.73, N: 11.95. Found C, 58.10; H, 3.86; N, 11.68. The title compound (0.12 g, 0.34 mmol) in ethyl acetate (3 mL) was treated with 1 M HCl/diethyl ether (5 mL). After stirring for 1 hour, the mixture was diluted with diethyl ether, filtered, and the filter cake was dried under high vacuum to provide the title compound as a hydrochloride salt. MS (ESI) m/e: 352 (M+H)+; 1H NMR (DMSO-d6) δ 2.05 (s, 3H), 4.05 (s, 2H), 6.7-6.75 (d, 1H), 6.85-6.96 (m, 1H), 7.04-7.1 (d, 2H), 7.7-7.75 (t, 1H), 7.89-7.97 (d, 1H), 8.05-8.1 (d, 1H), 8.18 (s, 1H); Anal. calcd. for C, 52.60; H, 3.63; N, 10.82. Found C, 52.54; H, 3.42; N, 10.79.

reactant | 2-chloro-3-trifluoromethylphenylhydrazine hydrochloride | Cl.ClC1=C(C=CC=C1C(F)(F)F)NN
reactant | phenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)NN
reactant | N-formylphenylacetamide | C(=O)NC(CC1=CC=CC=C1)=O | C9H9NO2
product | 1-[2-chloro-3-(trifluoromethyl)phenyl]-5-(2-methylbenzyl)-1H-1,2,4-triazole | ClC1=C(C=CC=C1C(F)(F)F)N1N=CN=C1CC1=C(C=CC=C1)C | C17H13ClF3N3
